US08426411B2
To a solution of N-((1S,3S,4R)-3-(3-allyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-ethylcyclopentyl)cyclopropanesulfonamide (0.28 g, 0.48 mmol, prepared using H with Preparation #12, Preparation #Z.1, HATU and DIEA, Q with Lawesson's reagent and mercury (II) trifluoroacetate) in 1,4-dioxane (5 mL) and water (1.5 mL) was added sodium periodate (0.21 g, 0.97 mmol) followed by osmium tetroxide (4 wt % in water, 0.19 mL, 0.024 mmol). After about 4 h, the reaction mixture was diluted with DCM (10 mL) and water (10 mL), the organic layer was separated and concd in vacuo. The crude aldehyde was dissolved in EtOH (5 mL) and NaBH4 (0.18 g, 4.8 mmol) was added to the reaction mixture. After about 4 h, HCl (1 N aqueous, 10 mL) and DCM (20 mL) were added to the reaction mixture. The organic layer was separated and concd in vacuo. The residue was purified by silica gel chromatography eluting with EtOAc in DCM to give crude alcohol (0.061 g). To a solution of the crude alcohol in DCM (1 mL) was added DIEA (0.047 mL, 0.27 mmol) followed by methanesulfonyl chloride (0.0092 mL, 0.12 mmol). After about 2 h, the reaction mixture was diluted with DCM (10 mL) and saturated aqueous NaHCO3 (10 mL). The organic layer was separated, concd in vacuo, and diluted with DMF (1.0 mL). Sodium methanethiolate (0.075 g, 1.1 mmol) was added to the reaction mixture. After stirring at ambient temperature for about 15 h, the reaction mixture was heated to about 50° C. After about 4 h, the reaction mixture was cooled to ambient temperature and diluted with DCM (10 mL) and saturated aqueous NaHCO3 (10 mL). The organic layer was separated, concd in vacuo, and purified by chromatography on silica gel (40 g) eluting with 20-80% MeCN in DCM. The fractions containing the thioether were combined and concd in vacuo. The crude thioether was dissolved in DCM (1 mL) and treated with OXONE® tetrabutylammonium salt (0.114 g, 0.320 mmol). After about 4 h, the reaction mixture was diluted with DMSO (1 mL) and partially concd in vacuo to remove DCM. The crude mixture was purified by RP-HPLC (Table 1, Method k). The fractions containing the desired sulfone were combined and concd in vacuo. The residue was further purified by chromatography on silica gel (12 g) eluting with 5% MeOH in DCM to provide N-((1S,3R,4S)-3-ethyl-4-(3-(2-(methylsulfonyl)ethyl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.002 g, 1.4%) as a solid: LC/MS (Table 1, Method a) Rt=1.82 min; MS m/z: 480 (M+H)+.

reactant | N-((1S,3S,4R)-3-(3-allyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)-4-ethylcyclopentyl)cyclopropanesulfonamide | 0.48 mmol, 0.28 g | C(C=C)C=1N=C(N2C1C=NC1=C2C=CN1S(=O)(=O)C1=CC=C(C)C=C1)[C@H]1C[C@H](C[C@H]1CC)NS(=O)(=O)C1CC1 | C28H33N5O4S2
reactant | sodium periodate | 0.97 mmol, 0.21 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | NaBH4 | 4.8 mmol, 0.18 g | [BH4-].[Na+]
reactant | HCl | 1 N, 10 mL | Cl | ClH
reactant | DIEA | 0.27 mmol, 0.047 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.12 mmol, 0.0092 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Sodium methanethiolate | 1.1 mmol, 0.075 g | C[S-].[Na+]
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | osmium tetroxide | 0.024 mmol, 0.19 mL | [Os](=O)(=O)(=O)=O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-((1S,3R,4S)-3-ethyl-4-(3-(2-(methylsulfonyl)ethyl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 0.002 g, 1.4% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NC(=C2N1C1=C(N=C2)NC=C1)CCS(=O)(=O)C)NS(=O)(=O)C1CC1 | C21H29N5O4S2
